US05885997
4-[[1-methyl-4-oxo-1,4-dihydro-2-quinazolinyl]methoxy]benzaldehyde
The title compound (364 mg, 65%) was prepared from 2-chloromethyl-1-methyl-4-oxo-1,4-dihydroquinazoline (416 mg, 2.0 nmmol) and 4-hydroxybenzaldehyde (244 mg, 2.0 mmol) in the presence of K2CO3 (276 mg, 2.0 mmol) as base by a similar procedure to that described in preparation 13.

reactant | 2-chloromethyl-1-methyl-4-oxo-1,4-dihydroquinazoline | 416 mg | ClCC=1N(C2=CC=CC=C2C(N1)=O)C | C10H9ClN2O
reactant | 4-hydroxybenzaldehyde | 2.0 mmol, 244 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
product | 4-[[1-methyl-4-oxo-1,4-dihydro-2-quinazolinyl]methoxy]benzaldehyde | 364 mg, 65% | CN1C(=NC(C2=CC=CC=C12)=O)COC1=CC=C(C=O)C=C1 | C17H14N2O3
